US07947680B2
Step 4: 3-[(Pyridine-2-carbonyl)-amino]-adamantane-1-carboxylic acid methyl ester
To a round bottom flask was added 3-amino-adamantane-1-carboxylic acid methyl ester hydrochloride (20.0 g, 81.4 mmol) and methylene chloride (500 mL) and the solution was cooled at 0° C. To this solution was then added triethylamine (57 mL, 0.41 mol) followed by picolinoyl chloride hydrochloride (15.2 g, 85.4 mmol; TCI America, Wellesley Hills, Mass., USA) and the reaction was stirred at 0° C. for 30 minutes, then at room temperature for 6 hours. To the reaction was added saturated aqueous sodium bicarbonate (500 mL) and the biphasic mixture was stirred vigorously for a few minutes, then transferred to a 2-L separatory funnel. The mixture was extracted, the layers separated and the aqueous layer was extracted again with methylene chloride (2×200 mL). The combined organic layers were washed with brine (300 mL), dried over sodium sulfate, filtered and concentrated under reduced pressure to afford 24.8 g (97%) of the title compound, 3-[(pyridine-2-carbonyl)-amino]-adamantane-1-carboxylic acid methyl ester, as a pale brown solid. 1H NMR (400 MHz, CDCl3) δ 8.54-8.49 (m, 1H), 8.16 (dt, J=7.8, 1.0 Hz, 1H), 7.96 (br s, 1H), 7.83 (td, J=7.8, 1.8 Hz, 1H), 7.40 (ddd, J=7.6, 4.8, 1.3 Hz, 1H), 3.66 (s, 3H), 2.34-2.30 (m, 2H), 2.29-2.23 (m, 2H), 2.17-2.13 (m, 4H), 1.97-1.80 (m, 4H), 1.78-1.62 (m, 2H). ESI-MS m/z: 315.0 (M+H)+.

reactant | 3-amino-adamantane-1-carboxylic acid methyl ester hydrochloride | 81.4 mmol, 20.0 g | Cl.COC(=O)C12CC3(CC(CC(C1)C3)C2)N
reactant | triethylamine | 0.41 mol, 57 mL | C(C)N(CC)CC | C6H15N
reactant | picolinoyl chloride hydrochloride | 85.4 mmol, 15.2 g | Cl.N1=C(C=CC=C1)C(=O)Cl
reactant | sodium bicarbonate | 500 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | 3-[(Pyridine-2-carbonyl)-amino]-adamantane-1-carboxylic acid methyl ester | 24.8 g, 97% | COC(=O)C12CC3(CC(CC(C1)C3)C2)NC(=O)C2=NC=CC=C2 | C18H22N2O3
